US07405300B2
2-[4-(2-Hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde is reacted with diethyl chlorophosphate as described in Step 1 of Example 31 to afford phosphoric acid diethyl ester 2-[4-(3-formyl-1-phenyl-1H-indol-2-yl)piperazin-1-yl]ethyl ester (71% yield) as a yellow solid. ESI/MS 486 (M+H); RT 2.94 min; NMR 10.15 (1H, s); 8.13 (1H, d, J=9 Hz); 7.68 (5H, m); 7.20 (2H, m); 6.91 (1H, d, J=6 Hz), 4.04 (6H, m); 3.28 (6H, m); 2.49 (4H, br s); 1.23 (6H, t).

reactant | 2-[4-(2-Hydroxyethyl)piperazin-1-yl]-1-phenyl-1H-indole-3-carboxaldehyde | OCCN1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C21H23N3O2
reactant | diethyl chlorophosphate | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
product | phosphoric acid diethyl ester 2-[4-(3-formyl-1-phenyl-1H-indol-2-yl)piperazin-1-yl]ethyl ester | 71% yield | C(=O)C1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)N1CCN(CC1)CCOP(OCC)(OCC)=O | C25H32N3O5P
